US20010016207A1
B. 4-Pyridin-4-yl-benzoic acid methyl ester
4-Carboxybenzeneboronic acid methyl ester (248 mmol) from A, 4-bromopyridine (248 mmol), tetrakis-(triphenylphosphin)-palladium (2.5 mmol) and potassium carbonate (744 mmol) are suspended in 1,2-dimethoxyethane (1100 ml). The stirred mixture is heated under reflux for 8 hours. After cooling the solvent is evaporated and water is added to the residue which is then extracted three times with ethyl acetate. The combined extract is dried over sodium sulfate and evaporated. The residue is suspended in diethylether and the solid filtered of and dried (vacuum). A pale-brown powder with mp. 99-101° C., Rf=0.39 (CH2Cl2/MeOH=95:5) is obtained.

reactant | 4-Carboxybenzeneboronic acid methyl ester | 248 mmol | COB(O)C1=CC=C(C=C1)C(=O)O | C8H9BO4
reactant | 4-bromopyridine | 248 mmol | BrC1=CC=NC=C1 | C5H4BrN
reactant | potassium carbonate | 744 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dimethoxyethane | 1100 ml | COCCOC | C4H10O2
catalyst | tetrakis-(triphenylphosphin)-palladium | 2.5 mmol | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-Pyridin-4-yl-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C1=CC=NC=C1)=O | C13H11NO2
